US06359125B1
After 27.03 g(0.20 mol) of adenine was dissolved in 500 ml of pyridine, 34.12 g(0.20 mol) of p-anisole chloride was added slowly over 55 minutes, and reacted for 4 hours at 100° C. with stirring. Then, the reaction temperature was lowered to room temperature, further reacted overnight with constant stirring, and removed pyridine by distilling under reduced vacuum. The resulting crude compound was recrystallized in isopropanol and methanol respectively, to give 33.7 g(0.13 mol) of white powder of N6-(4-methoxybenzoyl) adenine. 33.66 g(125 mmol) of N6-(4-methoxybenzoyl) adenine and 400 ml of DMF were placed in a 1 liter reaction flask, added 6.0 g(150 mmol) of 60% NaH slowly, added 22.15 ml(150 mmol) of t-butylbromoacetate in a dropwise over 1 hour 15 minutes, and then, reacted overnight. The reaction solvent, DMF was removed under reduced vacuum, and the precipitate was obtained after addition of water. The precipitate was separated and recrystallized in methanol to obtain 33.46 g(87.30 mmol) of N6-(4-methoxybenzoyl)-9-(t-butoxycarbonylmethyl) adenine as a white solid. In a 2 liter reaction flask, 33.46 g(87.30 mmol) of N6-(4-methoxybenzoyl)-9-(t-butoxycarbonylmethyl) adenine and 800 ml of dichloromethane were placed, mixed at room temperature, and added 180 ml of TFA. The reactants were mixed overnight at the same temperature with constant stirring. After dichloromethane and TFA were removed under reduced vacuum, the resulting crude compound was solubilized in 450 ml of 1N NaOH. The solution was washed with dichloromethane and acidified with 6N HCl to obtain 23.54 g(71.9 mmol) of N6-(4-methoxybenzoyl)-9-(carbonylmethyl) adenine as as white solid. In a 500 ml reaction flask, 21.99 g(67.20 mmol) of N6-(4-methoxybenzoyl)-9-(carbonylmethyl) adenine, 20.72 g(62.7 mmol) of benzyl N-[2-(t-butoxyl)aminoethyl]glycinate and 200 ml of dichloromethane were added sequentially, and then added 14.17 g(73.92 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiamide at once. The reaction mixture was incubated overnight at room temperature with constant stirring, extracted with dichloromethane and water, and washed with brine. The organic phase layer was dried with magnesium sulfate, and concentrated under reduced vacuum to obtain crude compound, which was subsequently purified through flash column chromatography by using a mobile phase of 5% methanol/dichloromethane to give 28.24 g(45.70 mol) of benzyl N-[2-(t-butoxylcarbonyl)aminoethyl]-N-[(N6-(4-methoxybenzoyl)-adenine-9-yl)acetyl]glycinate as a white powder. 400 ml of methanol was added to 28.24 g(45.70 mol) of the said compound, and then added 1.0 g of palladium on activated carbon(Pd/C) with stirring. Under hydrogen environment created by hydrogen balloon, the reaction flask was stirred for 3 hours. The catalyst was removed by filtering though celite, and evaporated the solvent under reduced vacuum. The resultant material was solubilized in 200 ml of 1N NaOH, washed with dichloromethane, acidified with 6N HCl and recrystallized in dichloromethane and hexane, respectively, to obtain 17.07 g(32.40 mmol) of N-[2-(t-butoxycarbonyl)aminoethyl]-N-[(N2-(4-methoxybenzoyl)-adenine-9-yl)acetyl]glycine(white powder) as a titled product.

reactant | N6-(4-methoxybenzoyl) adenine | 125 mmol, 33.66 g | COC1=CC=C(C(=O)NC2=C3NC=NC3=NC=N2)C=C1 | C13H11N5O2
reactant | DMF | 400 ml | CN(C)C=O | C3H7NO
reactant | NaH | 150 mmol, 6.0 g | [H-].[Na+]
reactant | t-butylbromoacetate | 150 mmol, 22.15 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | water | O | H2O
product | N6-(4-methoxybenzoyl)-9-(t-butoxycarbonylmethyl) adenine | 87.30 mmol, 33.46 g | COC1=CC=C(C(=O)NC2=C3N=CN(C3=NC=N2)CC(=O)OC(C)(C)C)C=C1 | C19H21N5O4
